US08183246B2
(+/−)-6-Hydroxy-heptanoic acid methyl ester
Put 10 g (63.2 mmol) 6-oxo-heptanoic acid methyl ester in 50 ml methanol. Add, in portions, 1.196 g (31.6 mmol) sodium borohydride. After the exothermic reaction has subsided, stir for a further 30 min under reflux. Then concentrate by evaporation. Take up the residue in water, acidify with 1 M hydrochloric acid and extract twice with dichloromethane. Dry the organic phases and concentrate by evaporation. 7.9 g (78.0% of theor.) of the target compound is obtained.

reactant | 6-oxo-heptanoic acid methyl ester | 63.2 mmol, 10 g | COC(CCCCC(C)=O)=O | C8H14O3
reactant | sodium borohydride | 31.6 mmol, 1.196 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (+/−)-6-Hydroxy-heptanoic acid methyl ester | COC(CCCCC(C)O)=O | C8H16O3
